US04216160
To a solution of 0.011 mole of NaIO4 in 25 ml. of water which has been cooled to 5° C. is added 0.01 mole of N-acetyl-2-(benzylthio) acetamide. The reaction mixture is allowed to warm to room temperature and then stirred overnight and concentrated to dryness. Chromatography of the residue on 200 g. of silica gel eluting with ethyl acetate in hexane (25-75%) gives N-acetyl-2-benzylsulfinylacetamide.

reactant | N-acetyl-2-(benzylthio) acetamide | 0.01 mole | C(C)(=O)NC(CSCC1=CC=CC=C1)=O | C11H13NO2S
reactant | water | O | H2O
product | N-acetyl-2-benzylsulfinylacetamide | C(C)(=O)NC(CS(=O)CC1=CC=CC=C1)=O | C11H13NO3S
